US05614532
2-Amino-4-chlorobenzyl alcohol (4 g, 25.3 mol) and 4-methoxyphenyl acetic acid (14.0 g, 76.4 mmol) were reacted in a similar manner to that described in Example 19 to give 7-chloro-3-(4-methoxyphenyl)-2(1H)-quinolone; mp 256°-257° C. (ethyl acetate).

reactant | 2-Amino-4-chlorobenzyl alcohol | 25.3 mol, 4 g | NC1=C(CO)C=CC(=C1)Cl | C7H8ClNO
reactant | 4-methoxyphenyl acetic acid | 76.4 mmol, 14.0 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
product | 7-chloro-3-(4-methoxyphenyl)-2(1H)-quinolone | ClC1=CC=C2C=C(C(NC2=C1)=O)C1=CC=C(C=C1)OC | C16H12ClNO2
